US08008307B2
Step d: (1R,2S,3R,5R)-3-Amino-5-(hydroxymethyl)cyclopentane-1,2-diyl dibenzoate hydrochloride
(1R,2S,3R,5R)-3-[(tert-Butoxycarbonyl)amino]-5-(hydroxymethyl)-cyclopentane-1,2-diyl dibenzoate (1.42 g, 3.11 mmol) was treated with a 4.00 M solution of HCl in 1,4-dioxane (17.0 mL, 69.3 mmol) and the reaction was stirred for 35 min. The reaction mixture was concentrated in vacuo and Et2O was added to precipitate the product, which was washed with Et3O to afford the title compound as a white solid (1.05 g, 90%). LC/MS: Rt=1.06 min, ES− 356 (FA standard).

reactant | (1R,2S,3R,5R)-3-[(tert-Butoxycarbonyl)amino]-5-(hydroxymethyl)-cyclopentane-1,2-diyl dibenzoate | 3.11 mmol, 1.42 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1CO)NC(=O)OC(C)(C)C)OC(C1=CC=CC=C1)=O | C25H29NO7
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 69.3 mmol, 17.0 mL | O1CCOCC1 | C4H8O2
product | (1R,2S,3R,5R)-3-Amino-5-(hydroxymethyl)cyclopentane-1,2-diyl dibenzoate hydrochloride | 1.05 g, 90% | Cl.C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1CO)N)OC(C1=CC=CC=C1)=O | InChI=1S/C20H21NO5.ClH/c21-16-11-15(12-22)17(25-19(23)13-7-3-1-4-8-13)18(16)26-20(24)14-9-5-2-6-10-14;/h1-10,15-18,22H,11-12,21H2;1H/t15-,16-,17-,18+;/m1./s1
